US06489440B1
To a stirred suspension of (R)-3-amino-5-(4′-heptyloxybiphenyl-4-yl)pentanoic acid tert-butyl ester (crude, 3.14 g) in 50% aqueous 1,4-dioxane (40 ml) were added Na2CO3 (1.19 g, 11.2 mmol) and FmocCl (1.28 g, 4.95 mmol). After being stirred for 1 h, the mixture was diluted with sat. brine (100 ml) and extracted with CH2Cl2 (100 ml×3). The combined extracts were dried over anhydrous Na2SO4 and concentrated in vacuo to give (R)-3-(9-fluorenylmethoxycarbonylamino)-5-(4′-heptyloxybiphenyl-4-yl)pentanoic acid tert-butyl ester (crude, 3.34 g) which was used for the next step without further purification.

reactant | (R)-3-amino-5-(4′-heptyloxybiphenyl-4-yl)pentanoic acid tert-butyl ester | 3.14 g | C(C)(C)(C)OC(C[C@@H](CCC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCC)N)=O | C28H41NO3
reactant | Na2CO3 | 11.2 mmol, 1.19 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | FmocCl | 4.95 mmol, 1.28 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | brine | 100 ml | [Cl-].[Na+].O
product | (R)-3-(9-fluorenylmethoxycarbonylamino)-5-(4′-heptyloxybiphenyl-4-yl)pentanoic acid tert-butyl ester | 3.34 g | C(C)(C)(C)OC(C[C@@H](CCC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCC)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C43H51NO5
